US04565877
4 g of (S)-2-(2-naphthylsulonylamino)-3-phenyl-propionic acid are dissolved in 40 ml of anhydrous benzene-anhydrous tetrahydrofuran (3:1), and 3.2 ml of thionyl chloride are added thereto. The mixture is stirred at 40° to 50° C for 18 hours. The reaction mixture is condensed to dryness under reduced pressure, and the residue is recrystallized from a mixture of benzene and n-hexane. 3.2 g of (S)-2-(2-naphthylsulfonylamino)-3-phenyl-propionyl chloride are obtained.

reactant | (S)-2-(2-naphthylsulonylamino)-3-phenyl-propionic acid | 4 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C19H17NO4S
reactant | thionyl chloride | 3.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | (S)-2-(2-naphthylsulfonylamino)-3-phenyl-propionyl chloride | 3.2 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)Cl)CC1=CC=CC=C1 | C19H16ClNO3S
